US05852040
A mixture of 1-benzyloxycarbonyl-4-hydroxy-4-(4-trifluoromethylphenyl)-piperidine (12.3 g, 32.4 mmol), ethanol (150 mL), and 10% palladium on carbon (1.4 g) was hydrogenated in a Parr apparatus (initial hydrogen pressure was 48 psi). After 2.5 hours, the mixture was filtered through celite and concentrated. The residue was triturated with ether/hexane to obtain 4.98 g (63%) of 4-hydroxy-4-(4-trifluoromethylphenyl)-piperidine as a white solid which had mp 130.5°-132° C. Analysis calculated for C12 H14F3NO--0.25 H2O: C, 57.71; H, 5.85; N, 5.61. Found: C, 57.91; H 5.77; N, 5.54.

reactant | 1-benzyloxycarbonyl-4-hydroxy-4-(4-trifluoromethylphenyl)-piperidine | 32.4 mmol, 12.3 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)C(F)(F)F)O | C20H20F3NO3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.4 g | [Pd] | Pd
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 4-hydroxy-4-(4-trifluoromethylphenyl)-piperidine | 4.98 g, 63% | OC1(CCNCC1)C1=CC=C(C=C1)C(F)(F)F | C12H14F3NO
